US08034812B2
Production of N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-methyl-1-phenyl-1H-pyrazole-5-carboxamide
Using 3-methyl-1-phenyl-1H-pyrazole-5-carboxylic acid (294 mg, 1.45 mmol), tetrahydrofuran (3.0 mL), N,N-dimethylformamide (30 μL, 0.39 mmol), oxalyl chloride (127 μL, 1.45 mmol), N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (300 mg, 0.97 mmol) and N,N-dimethylacetamide (6.0 mL), and in the same manner as in Example 255, the title compound (342 mg, 71%) was obtained as a white powder.

reactant | 3-methyl-1-phenyl-1H-pyrazole-5-carboxylic acid | 1.45 mmol, 294 mg | CC1=NN(C(=C1)C(=O)O)C1=CC=CC=C1 | C11H10N2O2
reactant | N,N-dimethylformamide | 0.39 mmol, 30 μL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 1.45 mmol, 127 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.97 mmol, 300 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
solvent | N,N-dimethylacetamide | 6.0 mL | CN(C(C)=O)C | C4H9NO
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-methyl-1-phenyl-1H-pyrazole-5-carboxamide | 342 mg, 71% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=CC(=NN2C2=CC=CC=C2)C)C1 | C27H23N7O3
